US06486360B1
At 30° C., 230 μl of H2O2 (50%) and 200 μl of 5M NaOH were successively added to a solution of 325 μl of α-terpinene and 143.6 mg of La(NO3)3.xH2O in 4 ml of methanol, whereupon a white precipitate formed. After 3.5 hours and after 21 hours, two further 230 μl portions of H2O2 (50%) were added to the mixture. After 24.5 hours, the reaction mixture was centrifuged, and the solution was decanted from the catalyst. The solvent was evaporated and the residue was dissolved in CDCl3 and analyzed using NMR. The reaction mixture was also analyzed by means of HPLC (MeOH/H2O 90/10; 260 nm). The analyses gave a conversion of 10% and a yield of >90% of ascaridol.

reactant | H2O2 | 230 μl | OO | H2O2
reactant | NaOH | 5M, 200 μl | [OH-].[Na+]
reactant | α-terpinene | 325 μl | CC1=CC=C(CC1)C(C)C | C10H16
solvent | methanol | 4 ml | CO | CH4O
product | ascaridol | yield of >90% | CC(C)C12CCC(C=C1)(OO2)C | C10H16O2
